US08937195B2
Under a nitrogen atmosphere, to a diethyl ether solution (175 mL) of 1-bromo-3,5-di-tert-butylbenzene (35.00 g, 130.00 mmol), a 1.65 M hexane solution of n-butyllithium (88.67 mL, 143.00 mmol) was added dropwise at −78° C. After the mixture was gradually warmed to room temperature, stirring was performed at room temperature for 2 hours. The resultant mixture was added dropwise to a solution of tetrachlorosilane (66.26 g, 390.00 mmol) dissolved in diethyl ether (58 mL) at −78° C. After the mixture was gradually warmed to room temperature, stirring was performed at room temperature for 3 hours. After completion of the reaction, the solvent was removed under reduced pressure. Thereafter, hexane was added to the residue, and insoluble materials were removed by filtration. The solvent was removed from the filtrate under reduced pressure. Purification by distillation under reduced pressure afforded trichloro(3,5-di-tert-butylphenyl)silane (24.11 g, yield 57.3%).

reactant | 1-bromo-3,5-di-tert-butylbenzene | 130.00 mmol, 35.00 g | BrC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C14H21Br
reactant | hexane | 1.65 M | CCCCCC | C6H14
reactant | n-butyllithium | 143.00 mmol, 88.67 mL | C(CCC)[Li]
reactant | tetrachlorosilane | 390.00 mmol, 66.26 g | Cl[Si](Cl)(Cl)Cl | Cl4Si
solvent | diethyl ether | 58 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 175 mL | C(C)OCC | C4H10O
product | trichloro(3,5-di-tert-butylphenyl)silane | 24.11 g, yield 57.3% | Cl[Si](C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C)(Cl)Cl | C14H21Cl3Si
